US05990101
A 20 ml potion of phosphorus oxychloride was added to 3.53 g of 2-(ethoxalylamino)methyl-5-ethoxycarbonylthiazole under ice-cooling, and the solution was then heated under reflux for 15 hours. After cooled, the reaction solution was concentrated to dryness under reduced pressure, and 20 ml of water and 20 ml of dichloromethane were then added so as to dissolve it. Under ice-cooling, potassium carbonate was added until the solution was alkalified. The solution was extracted with dichloromethane (10 ml×4). The combined organic layer was dried over anhydrous magnesium sulfate, and then filtered, and the solvent was evaporated under reduced pressure. The resulting crude product was purified by a silica gel column chromatograph to obtain 2.37 g of 2,5-diethoxycarbonylimidazo[5,1-b]thiazole.

reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(ethoxalylamino)methyl-5-ethoxycarbonylthiazole | 3.53 g | C(=O)(C(=O)OCC)NCC=1SC(=CN1)C(=O)OCC | C11H14N2O5S
product | 2,5-diethoxycarbonylimidazo[5,1-b]thiazole | 2.37 g | C(C)OC(=O)C1=CN2C(S1)=CN=C2C(=O)OCC | C11H12N2O4S
